US07615562B2
(4-Indol-1-yl-pyrimidin-2-yl)-(2,2,6,6-tetramethyl-piperidin-4-yl)-amine
A mixture of (4-chloro-pyrimidin-2-yl)-(2,2,6,6-tetramethyl-piperidin-4-yl)-amine (200 mg, 0.74 mmol), indole (96 μl, 0.81 mmol), potassium hydroxide (63 mg, 1.10 mmol) and a few drops of Aliquat 336 were heated to 120° C. for 5 h. After cooling to room temperature the mixture was dissolved in ethylacetate, washed with water and brine and the crude product was purified by HPLC. Thus 71 mg (0.20 mmol, 27%) of the title compound were obtained.

reactant | (4-chloro-pyrimidin-2-yl)-(2,2,6,6-tetramethyl-piperidin-4-yl)-amine | 0.74 mmol, 200 mg | ClC1=NC(=NC=C1)NC1CC(NC(C1)(C)C)(C)C | C13H21ClN4
reactant | indole | 0.81 mmol, 96 μl | N1C=CC2=CC=CC=C12 | C8H7N
reactant | potassium hydroxide | 1.10 mmol, 63 mg | [OH-].[K+]
catalyst | Aliquat 336 | a few drops | CCCCCCCC[N+](C)(CCCCCCCC)CCCCCCCC.[Cl-]
solvent | ethylacetate | C(C)OC(C)=O | C4H8O2
product | (4-Indol-1-yl-pyrimidin-2-yl)-(2,2,6,6-tetramethyl-piperidin-4-yl)-amine | 0.20 mmol, 71 mg, 27% | N1(C=CC2=CC=CC=C12)C1=NC(=NC=C1)NC1CC(NC(C1)(C)C)(C)C | C21H27N5
